*---------------------------------------------------------------------------
* SPDX-FileCopyrightText: 2020 Efabless Corporation
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
* SPDX-License-Identifier: Apache-2.0
*---------------------------------------------------------------------------
* Simple POR circuit for Caravel current mirror test
*-------------------------------------------------------------------

.param mc_mm_switch=0
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Note: 20 resistors of length 25um connected in series
Xres1 vdda vin vss sky130_fd_pr__res_xhigh_po_0p69 l=500
Xres2 vin vss vss sky130_fd_pr__res_xhigh_po_0p69 l=149

* voltage sources at 0V for measuring current in each branch

Vm1 vssm1 vss   DC=0
Vm2 vdda  vddm2 DC=0
Vm3 vdda  vddm3 DC=0
Vm4 vssm4 vss   DC=0
Vm5 vssm5 vss   DC=0
Vm6 vdda  vddm6 DC=0
Vm7 vdda  vddm7 DC=0

*   D     G     S     B
Xm1 casc1 vin   vssm1 vss  sky130_fd_pr__nfet_g5v0d10v5 w=2 l=0.8 m=1
Xc1 mir1  casc1 casc1 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1
Xm2 mir1  mir1  vddm2 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=8
Xm3 mir2  mir1  vddm3 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1
Xc2 casc2 casc1 mir2  vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1
Xm4 casc2 casc2 vssm4 vss  sky130_fd_pr__nfet_g5v0d10v5 w=2 l=0.8 m=7
Xm5 casc3 casc2 vssm5 vss  sky130_fd_pr__nfet_g5v0d10v5 w=2 l=0.8 m=1
Xc3 mir3  casc3 casc3 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1
Xm6 mir3  mir3  vddm6 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=7
Xm7 mir4  mir3  vddm7 vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1
Xc4 vcap  casc3 mir4  vdda sky130_fd_pr__pfet_g5v0d10v5 w=2 l=0.8 m=1

* Check branch currents in each mirror branch.
* 1st branch should be 240nA
* 2nd branch should be  30nA
* 3rd branch should be   4.3nA
* 4th branch should be 612pA
*
* Result:  vin sits at 0.7590 (close to 0.7575 target)
* I(Vm1/2) = 202.80 nA
* I(Vm3/4) =  26.10 nA	(should be /8) actually /7.77
* I(Vm5/6) =   4.58 nA	(should be /7) actually /5.70
* I(Vm7)   =   0.67 nA	(should be /7) actually /6.80

*----------------------------
* Testbench circuit
*----------------------------
Vpwr vdda vss DC=3.3
Rgnd vss 0 0.01
Rload vcap vss 1MEG
*----------------------------

*----------------------------
* Testbench control
*----------------------------
.control
op
print V(vin)
print I(Vm1)
print I(Vm2)
print I(Vm3)
print I(Vm4)
print I(Vm5)
print I(Vm6)
print I(Vm7)
.endc

.end

